US06013658
2-((1R)-1-(tert-Butoxycarbonylamino)-2-(2-naphthyl)ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid amide (0.155 g; 0.327 mmol) was dissolved in methylene chloride (4 ml) and trifluoroacetic acid (4 ml) was added. The reaction mixture was stirred 1 hour at room temperature and the solvent was removed in vacuo. The residue was dissolved in methylene chloride and evaporated (2×2 ml). The residue was dissolved in diethyl ether (2 ml). Hydrochloric acid (1 N; 3 ml) and methanol (10 ml) were added. The solvent was removed in vacuo to afford 0.106 g of 2-((1R)-1-amino-2-(2-naphthyl)-ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid amide.

reactant | 2-((1R)-1-(tert-Butoxycarbonylamino)-2-(2-naphthyl)ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid amide | 0.327 mmol, 0.155 g | C(C)(C)(C)OC(=O)N[C@H](CC1=CC2=CC=CC=C2C=C1)C=1SC(=C(N1)C(=O)N)C1=CC=CC=C1 | C27H27N3O3S
reactant | trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | 2-((1R)-1-amino-2-(2-naphthyl)-ethyl)-5-phenyl-1,3-thiazole-4-carboxylic acid amide | 0.106 g | N[C@H](CC1=CC2=CC=CC=C2C=C1)C=1SC(=C(N1)C(=O)N)C1=CC=CC=C1 | C22H19N3OS
